US05807883
5 ml of trifluoroacetic acid was added to a solution of 700 mg of ethyl 3-[1-(t-butoxycarbonylmethyl)-3-(3,4-dichlorobenzoylamino)-2,3-dihydro-2-oxo-1H-indol-3-yl]propionate in methylene chloride (20 ml). The mixture was stirred at room temperature for 3 hours. The reaction mixture was evaporated to dryness under reduced pressure. The residue was recrystallized from ethyl acetate-hexane to afford 651 mg of 2-[3-(3,4-dichlorobenzoylamino)-2,3-dihydro-3-(2-ethoxycarbonylethyl)-2-oxo-1H-indol-1-yl]acetic acid as colorless prism crystals. Melting point: 219° to 220° C., IR (Nujol) (cm-1): 3280, 1735, 1720, 1705, 1670, 1610, FAB-MS (m/z): 481 & 479 (MH+).

reactant | trifluoroacetic acid | 5 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | ethyl 3-[1-(t-butoxycarbonylmethyl)-3-(3,4-dichlorobenzoylamino)-2,3-dihydro-2-oxo-1H-indol-3-yl]propionate | 700 mg | C(C)(C)(C)OC(=O)CN1C(C(C2=CC=CC=C12)(NC(C1=CC(=C(C=C1)Cl)Cl)=O)CCC(=O)OCC)=O | C26H28Cl2N2O6
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | 2-[3-(3,4-dichlorobenzoylamino)-2,3-dihydro-3-(2-ethoxycarbonylethyl)-2-oxo-1H-indol-1-yl]acetic acid | 651 mg | ClC=1C=C(C(=O)NC2(C(N(C3=CC=CC=C23)CC(=O)O)=O)CCC(=O)OCC)C=CC1Cl | C22H20Cl2N2O6
